US03984429
7-Fluoro-9,10-dihydro-9,10-dioxo-2-anthroic acid (15 g), phosphorus pentachloride (12 g) and xylene (300 ml) were heated for 15 minutes at 100°-130° till a clear solution was obtained. This was concentrated to small volume and allowed to crystallise. The product was washed with light petroleum (bp 40°-60°) to give 7-fluoro-9,10-dihydro-9,10-dioxo-2-anthroyl chloride (14 g).

reactant | 7-Fluoro-9,10-dihydro-9,10-dioxo-2-anthroic acid | 15 g | FC1=CC=C2C(C=3C=CC(=CC3C(C2=C1)=O)C(=O)O)=O | C15H7FO4
reactant | phosphorus pentachloride | 12 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | xylene | 300 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 7-fluoro-9,10-dihydro-9,10-dioxo-2-anthroyl chloride | 14 g | FC1=CC=C2C(C=3C=CC(=CC3C(C2=C1)=O)C(=O)Cl)=O | C15H6ClFO3
